2103-10-24 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2103-10-23**] 08:30 AM
 FEVER - 103.0
F - [**2103-10-23**] 08:00 AM
   - [**Last Name (un) 72**] consulted and recommended keeping glucose between 200-300
   while correcting hypernatremia at rate of 0.5 mEq per hr.
   - Renal consulted and will see tomorrow.
   - Insuling gtt reduced to [**2-15**] U/hr
   - Hypernatremia corrected to 155 (161 corrected) by 1000 PM.
   - Acidemia corrected as well
   - Still considering infectious cause -> ID did not approved Zosyn,
   started levaquin.
   - Abd U/S ordered given elevated LFTs and pancreatic enzymes.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2103-10-23**] 02:22 AM
   Levofloxacin - [**2103-10-23**] 10:00 PM
   Infusions:
   Insulin - Regular - 3 units/hour
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2103-10-23**] 08:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-24**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 37.2
C (98.9
   HR: 100 (91 - 145) bpm
   BP: 104/76(85) {77/52(60) - 143/86(276)} mmHg
   RR: 24 (4 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 28 (0 - 33)mmHg
   Mixed Venous O2% Sat: 72 - 72
   Total In:
                                                                 12,979 mL
                                                                  1,413 mL
   PO:
   TF:
   IVF:
                                                                 12,979 mL
                                                                  1,413 mL
   Blood products:
   Total out:
                                                                    945 mL
                                                                     10 mL
   Urine:
                                                                    445 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 12,034 mL
                                                                  1,403 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (500 - 600) mL
   Vt (Spontaneous): 825 (825 - 825) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 18 cmH2O
   SpO2: 96%
   ABG: 7.35/32/180/18/-6
   Ve: 14 L/min
   PaO2 / FiO2: 360
   Physical Examination
   GEN: Intubated, Sedated, but responsive to verbal and noxious stimuli,
   not following commands
   HEENT: PERRL
   CV: distant heart sounds, RRR, no M/R/G
   Pulm: equal breath sounds bilaterally, no W/R/R
   Abd: Distended almost tense, BS present
   Extr: 2+ edema in upper and lower extremities, pulses 2+ symmetric
   Labs / Radiology
   129 K/uL
   12.4 g/dL
   222 mg/dL
   5.2 mg/dL
   18 mEq/L
   4.0 mEq/L
   58 mg/dL
   129 mEq/L
   161 mEq/L
   35.9 %
   19.0 K/uL
        [image002.jpg]
                            [**2103-10-23**]  04:22 PM
                            [**2103-10-23**]  06:15 PM
                            [**2103-10-23**]  07:26 PM
                            [**2103-10-23**]  09:07 PM
                            [**2103-10-23**]  09:58 PM
                            [**2103-10-24**]  12:01 AM
                            [**2103-10-24**]  12:22 AM
                            [**2103-10-24**]  02:02 AM
                            [**2103-10-24**]  04:30 AM
                            [**2103-10-24**]  04:51 AM
   WBC
   15.5
   19.0
   Hct
   37.7
   35.9
   Plt
   145
   129
   Cr
   3.9
   4.1
   4.2
   4.2
   4.7
   4.9
   5.2
   TropT
   0.03
   TCO2
   20
   19
   18
   Glucose
   453
   435
   389
   [**Telephone/Fax (3) 2584**]
   222
   Other labs: PT / PTT / INR:14.8/29.6/1.3, CK / CKMB /
   Troponin-T:3722/9/0.03, ALT / AST:59/82, Alk Phos / T Bili:84/0.2,
   Amylase / Lipase:155/58, Differential-Neuts:67.0 %, Band:18.0 %,
   Lymph:12.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:2.5 mmol/L,
   Albumin:3.3 g/dL, LDH:236 IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   48yoM ICU day #2 with HONK with potential underlying infection
   # Hyperosmolality:  His osmolality remains elevated with hypernatremia
   and non-gap acidosis.  His sugars were corrected quickly with insulin
   gtt, then we attempted to keep them in the 200-300 range.  He is fluid
   overloaded at this point give his edema and abdominal distention, and
   his most recent CVP was 15 indicating he is adequately volume
   resuscitated.
   - Continue D5 Water for correction of hyperosmolality.
   - goal of 145 Na by tomorrow
   - Follow CVPs for volume status and use NS conservatively
   - Continue insulin gtt for goal glucose in 200-300 range
   # Respiratory acidosis/vent dependence: Patient remains intubated and
   sedated, although respiratory acidosis has corrected with MDIs and
   increased PEEP.  Have been able to wean PEEP to 5 on rounds today.
   Continues with metabolic acidosis.
   - Wean vent to 40% FiO2 and 5 PEEP
   - Attempt pressure support today
   - Fluid management will be key, see below
   # Oliguria/Anuria:  Patient
s UOP dwindled to the point that he has
   made no urine since [**04**] pm.  Cr and BUN continue to rise and renal was
   consulted.  Most likely ATN, will watch for recovery, but no indication
   for dialysis at this point
   - Adaquately resuscitated as CVP of 15
   - f/u renal recs
   - Replete K conservatively
   # Elevated LFTs/pancreatic enzymes: Likely shock liver/pancrease
   although HONK can elevate pancreatic enzymes and acute obstructing
   pancreatitis has not been ruled out.  Additionally, his drinking
   history is unknown and these changes may reflect alcoholic hepatitis or
   pancreatitis.
   - Trend LFTs/pancreatic enzymes
   - Abdominal U/S today
   - if unrevealing, likely CT of abd/pelvis
   - consider sending hep serologies
   # Acid-Base Status: Patient with non AG metabolic acidosis most likely
   from saline resuscitation.
   - may give bicarb as needed
   # Underlying Infection: His WBC continues to rise and he was febrile
   yesterday.  As our only source is a possible RLL pna and patient came
   from community, ID declined zosyn and patient was placed on renally
   dosed levofloxacin.
   - continue levofloxacin
   - consider Abd CT as above
   # Family: Discussion took place in which family was notified of the
   seriousness of his condition
   ICU Care
   Nutrition: Nutrition consult for TF today
   Glycemic Control:
   Lines:
   18 Gauge - [**2103-10-23**] 02:20 AM
   20 Gauge - [**2103-10-23**] 02:20 AM
   Multi Lumen - [**2103-10-23**] 06:36 AM
   Arterial Line - [**2103-10-23**] 08:30 AM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition: ICU

2103-10-24 10:00:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, acute renal failure,
   hyperosmolar-non ketotic state, altered mental status.
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   Temp up to 103 last night. Continues on ventilator with good O2 sats on
   40% oxygen. Alveolar ventilation has improved. Antibiotics being
   adjusted for more narrow coverage. WBC up to 19,000.
   24 Hour Events:
 ARTERIAL LINE - START [**2103-10-23**] 08:30 AM
 FEVER - 103.0
F - [**2103-10-23**] 08:00 AM
   History obtained from Family / [**Hospital 216**] Medical records
   Patient unable to provide history: Encephalopathy, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2103-10-23**] 02:22 AM
   Levofloxacin - [**2103-10-23**] 10:00 PM
   Infusions:
   Insulin - Regular - 4 units/hour
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2103-10-24**] 08:16 AM
   Other medications:
   ASA, heparin sc, atrovent, albuterol, chlorhexadine wash
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-24**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 36.7
C (98
   HR: 97 (91 - 123) bpm
   BP: 115/79(90) {82/62(69) - 143/86(276)} mmHg
   RR: 24 (4 - 29) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 28 (14 - 33)mmHg
   Total In:
                                                                 12,979 mL
                                                                  2,267 mL
   PO:
   TF:
   IVF:
                                                                 12,979 mL
                                                                  2,267 mL
   Blood products:
   Total out:
                                                                    945 mL
                                                                     20 mL
   Urine:
                                                                    445 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 12,034 mL
                                                                  2,247 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (500 - 600) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 19 cmH2O
   Compliance: 66.7 cmH2O/mL
   SpO2: 95%
   ABG: 7.35/32/180/19/-6
   Ve: 13.9 L/min
   PaO2 / FiO2: 450
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, Sedated
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : Few rales anteriorally and laterally, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.4 g/dL
   129 K/uL
   255 mg/dL
   5.3 mg/dL
   19 mEq/L
   3.8 mEq/L
   56 mg/dL
   128 mEq/L
   160 mEq/L
   35.9 %
   19.0 K/uL
        [image002.jpg]
                            [**2103-10-23**]  06:15 PM
                            [**2103-10-23**]  07:26 PM
                            [**2103-10-23**]  09:07 PM
                            [**2103-10-23**]  09:58 PM
                            [**2103-10-24**]  12:01 AM
                            [**2103-10-24**]  12:22 AM
                            [**2103-10-24**]  02:02 AM
                            [**2103-10-24**]  04:30 AM
                            [**2103-10-24**]  04:51 AM
                            [**2103-10-24**]  06:02 AM
   WBC
   15.5
   19.0
   Hct
   37.7
   35.9
   Plt
   145
   129
   Cr
   4.1
   4.2
   4.2
   4.7
   4.9
   5.2
   5.3
   TropT
   0.03
   TCO2
   20
   19
   18
   Glucose
   [**Telephone/Fax (3) 2591**]99
   265
   222
   255
   Other labs: PT / PTT / INR:14.8/29.6/1.3, CK / CKMB /
   Troponin-T:3722/9/0.03, ALT / AST:59/82, Alk Phos / T Bili:84/0.2,
   Amylase / Lipase:155/58, Differential-Neuts:46.0 %, Band:4.0 %,
   Lymph:26.0 %, Mono:6.0 %, Eos:4.0 %, Lactic Acid:2.5 mmol/L,
   Albumin:3.3 g/dL, LDH:236 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.9
   mg/dL
   Imaging: CXR: low lung volumes, prominent lung markings but patient
   supine. No focal infiltrates, no effusions
   Assessment and Plan
 HYPERGLYCEMIA
 OLIGURIA/ANURIA
 ACIDOSIS, METABOLIC
 .H/O ACIDOSIS, METABOLIC
 .H/O HYPERGLYCEMIA
   ACUTE RESPIRATORY FAILURE
   HYPERNATREMIA
   ACUTE RENAL FAILURE
   With bronchodilators, respiratory status has improved. AutoPEEP now
   less than 2. Alveolar ventilation improved. Minute ventilation remains
   high, however, at 13L/min. Part of this ventilation reflects
   compensation for ongiong metabolic acidosis (small anion gap consistent
   with renal failure).  Will switch to pressure support ventilation today
   and lighten sedation. If patient has difficulty sustaining this level
   of ventilation, may need to replete bicarb or consider dialysis.
   Abdomen seems distended today; concern about third spacing into the
   abdomen. Will check abdominal ultrasound today.
   Serum Na coming down. Goal for it to be 145 by tomorrow monring.
   Maintain glucose at 250-300.
   CVP with PEEP=5; oxygenation good. Minimize further volume replacement.
   Patient remains febrile with increasing WBC. CXR remains quite clear.
   Source remians unclear. Abdominal ultrasound today. [**Month (only) 8**] need abdominal
   CT depending on the ultrasound finding.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2103-10-23**] 02:20 AM
   20 Gauge - [**2103-10-23**] 02:20 AM
   Multi Lumen - [**2103-10-23**] 06:36 AM
   Arterial Line - [**2103-10-23**] 08:30 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2103-10-25 08:01:00 Physician Resident Progress Note
Chief Complaint: hyperosmolar, non-ketotic hyperglycemia
   24 Hour Events:
 SPUTUM CULTURE - At [**2103-10-25**] 03:30 AM
   - Multiple meetings with family with various team members
   - Lytes followed closely overnight with adjustments made to IVF
   - Abd U/S performed
   - OSH records with NGTD for Cx's.
   - Bladder pressures checked 16->12
   - Seen by Renal, [**Last Name (un) 72**], Nutrition
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2103-10-23**] 02:22 AM
   Levofloxacin - [**2103-10-23**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2103-10-24**] 08:24 PM
   Heparin Sodium (Prophylaxis) - [**2103-10-24**] 11:42 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt sedated- unable to obtain at this time
   Flowsheet Data as of  [**2103-10-25**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 96 (88 - 102) bpm
   BP: 129/78(94) {109/77(88) - 160/101(122)} mmHg
   RR: 24 (22 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 26 (26 - 28)mmHg
   Bladder pressure: 12 (12 - 16) mmHg
   Total In:
                                                                  6,008 mL
                                                                    795 mL
   PO:
   TF:
   IVF:
                                                                  6,008 mL
                                                                    795 mL
   Blood products:
   Total out:
                                                                    248 mL
                                                                    160 mL
   Urine:
                                                                    248 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,760 mL
                                                                    635 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   Compliance: 54.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.31/32/82.[**Numeric Identifier 253**]/17/-9
   Ve: 14.4 L/min
   PaO2 / FiO2: 207
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: at bases bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Sedated, Tone: Decreased
   Labs / Radiology
   97 K/uL
   11.7 g/dL
   257 mg/dL
   6.2 mg/dL
   17 mEq/L
   4.8 mEq/L
   61 mg/dL
   120 mEq/L
   152 mEq/L
   33.8 %
   14.8 K/uL
        [image002.jpg]
                            [**2103-10-24**]  04:51 AM
                            [**2103-10-24**]  06:02 AM
                            [**2103-10-24**]  09:07 AM
                            [**2103-10-24**]  01:11 PM
                            [**2103-10-24**]  04:59 PM
                            [**2103-10-24**]  05:42 PM
                            [**2103-10-24**]  08:17 PM
                            [**2103-10-25**]  12:03 AM
                            [**2103-10-25**]  12:31 AM
                            [**2103-10-25**]  04:31 AM
   WBC
   17.2
   14.8
   Hct
   32.8
   33.8
   Plt
   94
   97
   Cr
   5.3
   5.5
   5.7
   5.6
   5.9
   6.1
   6.2
   TropT
   0.03
   TCO2
   18
   18
   17
   Glucose
   255
   260
   278
   293
   304
   279
   257
   Other labs: PT / PTT / INR:14.3/28.9/1.2, CK / CKMB /
   Troponin-T:3543/7/0.03, ALT / AST:60/81, Alk Phos / T Bili:78/0.3,
   Amylase / Lipase:56/21, Differential-Neuts:46.0 %, Band:4.0 %,
   Lymph:26.0 %, Mono:6.0 %, Eos:4.0 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.6 g/dL, LDH:241 IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:5.9
   mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 HYPERGLYCEMIA
 OLIGURIA/ANURIA
 ACIDOSIS, METABOLIC
 .H/O ACIDOSIS, METABOLIC
 .H/O HYPERGLYCEMIA
   48yoM ICU day #2 with HONK with potential underlying infection
   # Hyperosmolality:  His osmolality remains elevated with hypernatremia
   and non-gap acidosis.  His sugars were corrected quickly with insulin
   gtt, then we attempted to keep them in the 200-300 range.  He is fluid
   overloaded at this point give his edema and abdominal distention, and
   his most recent CVP was 15 indicating he is adequately volume
   resuscitated.
   - Continue D5 Water for correction of hyperosmolality.
   - goal of 145 Na by tomorrow
   - Follow CVPs for volume status and use NS conservatively
   - Continue insulin gtt for goal glucose in 200-300 range
   # Respiratory acidosis/vent dependence: Patient remains intubated and
   sedated, although respiratory acidosis has corrected with MDIs and
   increased PEEP.  Have been able to wean PEEP to 5 on rounds today.
   Continues with metabolic acidosis.
   - Wean vent to 40% FiO2 and 5 PEEP
   - Attempt pressure support today
   - Fluid management will be key, see below
   # Oliguria/Anuria:  Patient
s UOP dwindled to the point that he has
   made no urine since [**04**] pm.  Cr and BUN continue to rise and renal was
   consulted.  Most likely ATN, will watch for recovery, but no indication
   for dialysis at this point
   - Adaquately resuscitated as CVP of 15
   - f/u renal recs
   - Replete K conservatively
   # Elevated LFTs/pancreatic enzymes: Likely shock liver/pancrease
   although HONK can elevate pancreatic enzymes and acute obstructing
   pancreatitis has not been ruled out.  Additionally, his drinking
   history is unknown and these changes may reflect alcoholic hepatitis or
   pancreatitis.
   - Trend LFTs/pancreatic enzymes
   - Abdominal U/S today
   - if unrevealing, likely CT of abd/pelvis
   - consider sending hep serologies
   # Acid-Base Status: Patient with non AG metabolic acidosis most likely
   from saline resuscitation.
   - may give bicarb as needed
   # Underlying Infection: His WBC continues to rise and he was febrile
   yesterday.  As our only source is a possible RLL pna and patient came
   from community, ID declined zosyn and patient was placed on renally
   dosed levofloxacin.
   - continue levofloxacin
   - consider Abd CT as above
   # Family: Discussion took place in which family was notified of the
   seriousness of his condition
   ICU Care
   Nutrition: npo. OGT in place
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2103-10-23**] 02:20 AM
   20 Gauge - [**2103-10-23**] 02:20 AM
   Multi Lumen - [**2103-10-23**] 06:36 AM
   Arterial Line - [**2103-10-23**] 08:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2103-10-25 10:31:00 Physician Attending Progress Note
Chief Complaint: Hyperosmolar state, hyperglycemia, acute respiratory
   failure, COPD
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Serum Na improving with free water repletion. Glucose maintained about
   200-250.
   Continues on ventilator with good oxygenation.
   Minimal urine output. Metabolic acidosis a bit worse.
   Hemodynamically stable.
   Blood culture positive for gram positive cocci.
   24 Hour Events:
 SPUTUM CULTURE - At [**2103-10-25**] 03:30 AM
   History obtained from Patient
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2103-10-23**] 02:22 AM
   Levofloxacin - [**2103-10-23**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2103-10-25**] 08:18 AM
   Heparin Sodium (Prophylaxis) - [**2103-10-25**] 09:18 AM
   Other medications:
   Chlorhexidine, abuterol, atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-25**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 96 (88 - 96) bpm
   BP: 148/91(110) {125/77(91) - 148/91(110)} mmHg
   RR: 24 (24 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 26 (26 - 27)mmHg
   Bladder pressure: 12 (12 - 16) mmHg
   Total In:
                                                                  6,008 mL
                                                                  1,061 mL
   PO:
   TF:
   IVF:
                                                                  6,008 mL
                                                                  1,061 mL
   Blood products:
   Total out:
                                                                    248 mL
                                                                    200 mL
   Urine:
                                                                    248 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,760 mL
                                                                    861 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: 7.31/32/82.[**Numeric Identifier 253**]/17/-9
   Ve: 14.2 L/min
   PaO2 / FiO2: 207
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : Few rales laterally; exam limited with patient on
   vent, No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t)
   Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.7 g/dL
   97 K/uL
   257 mg/dL
   6.2 mg/dL
   17 mEq/L
   4.8 mEq/L
   61 mg/dL
   120 mEq/L
   152 mEq/L
   33.8 %
   14.8 K/uL
        [image002.jpg]
                            [**2103-10-24**]  04:51 AM
                            [**2103-10-24**]  06:02 AM
                            [**2103-10-24**]  09:07 AM
                            [**2103-10-24**]  01:11 PM
                            [**2103-10-24**]  04:59 PM
                            [**2103-10-24**]  05:42 PM
                            [**2103-10-24**]  08:17 PM
                            [**2103-10-25**]  12:03 AM
                            [**2103-10-25**]  12:31 AM
                            [**2103-10-25**]  04:31 AM
   WBC
   17.2
   14.8
   Hct
   32.8
   33.8
   Plt
   94
   97
   Cr
   5.3
   5.5
   5.7
   5.6
   5.9
   6.1
   6.2
   TropT
   0.03
   TCO2
   18
   18
   17
   Glucose
   255
   260
   278
   293
   304
   279
   257
   Other labs: PT / PTT / INR:14.3/28.9/1.2, CK / CKMB /
   Troponin-T:3543/7/0.03, ALT / AST:60/81, Alk Phos / T Bili:78/0.3,
   Amylase / Lipase:56/21, Differential-Neuts:46.0 %, Band:4.0 %,
   Lymph:26.0 %, Mono:6.0 %, Eos:4.0 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.6 g/dL, LDH:241 IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:5.9
   mg/dL
   Imaging: CXR: hazy opacities at bases; atelectasis vs infiltrate
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 HYPERGLYCEMIA
 OLIGURIA/ANURIA
 ACIDOSIS, METABOLIC
 .H/O ACIDOSIS, METABOLIC
 .H/O HYPERGLYCEMIA
   ACUTE RESPIRATORY FAILURE
   ACUTE RENAL FAILURE
   BACTEREMIA
   Patient placed on PSV during rounds. Appears to be holding tidal volume
   and minute ventilation well. Sedation to be turned off. CVP is 20-21.
   My concern is that he will not be able to come off the ventilator with
   this degree of volume overload. Given that patient is now making urine
   again, would give lasix to see if we can induce a diuresis.  Creat has
   leveled off and he may be starting to turn around re: ATN.
   Continued anion gap metabolic acidosis from renal failure. Patient has
   appropriate respiratory compensation. Electrolytes are otherwise coming
   into range. Will aim to get Na down to 140-145 today. Maintain glucose
   200-250.
   One blood culture positive from a-line; repeat culture. Re-site the
   line.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2103-10-23**] 02:20 AM
   20 Gauge - [**2103-10-23**] 02:20 AM
   Multi Lumen - [**2103-10-23**] 06:36 AM
   Arterial Line - [**2103-10-23**] 08:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2103-10-26 07:59:00 Physician Resident Progress Note
Chief Complaint: HONK, resp failure
   24 Hour Events:
 BLOOD CULTURED - At [**2103-10-25**] 10:59 AM
 ARTERIAL LINE - START [**2103-10-25**] 01:07 PM
   re sited Aline [**1-13**] pos gm cocci in BC from R radial aline
 ARTERIAL LINE - STOP [**2103-10-25**] 01:52 PM
 SPUTUM CULTURE - At [**2103-10-25**] 03:22 PM
   -In am, consider Head CT and neuro consult
   -A line blood culture from [**10-23**] growing gr + cocci. A line was
   removed, tip cultured and new A line placed
   -Sedation was turned off but pt remains responsive only to pain
   -[**Last Name (un) 72**] recommended changing to SC insulin which was ordered in the
   afternoon. However, perhaps due to swelling and decr uptake of insulin
   or continuing D5W use, glucose went up to 470 and insulin gtt was
   restarted at lower dose at 40 lantus was already given in early
   afternoon
   -Renal recommended 1.9L excess free water be given today.
   -Lasix 100 IV was given x1 with UOP increasing from 20cc/hr to
   200cc/hr. D5W was thus increased to 200cc/hr as well
   -Pt did well on PS trial- now stable on 0 PS and 10 PEEP
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2103-10-25**] 11:00 AM
   Levofloxacin - [**2103-10-25**] 09:29 PM
   Infusions:
   Insulin - Regular - 9 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2103-10-25**] 10:58 AM
   Famotidine (Pepcid) - [**2103-10-25**] 08:03 PM
   Heparin Sodium (Prophylaxis) - [**2103-10-25**] 11:09 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain at this time [**1-13**] pt sedation
   Flowsheet Data as of  [**2103-10-26**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.9
   HR: 97 (93 - 100) bpm
   BP: 162/92(115) {120/74(89) - 165/92(116)} mmHg
   RR: 26 (24 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 9 (8 - 21)mmHg
   Total In:
                                                                  3,585 mL
                                                                  1,773 mL
   PO:
   TF:
   IVF:
                                                                  3,585 mL
                                                                  1,773 mL
   Blood products:
   Total out:
                                                                  3,150 mL
                                                                  1,060 mL
   Urine:
                                                                  3,150 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    435 mL
                                                                    713 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 473 (473 - 650) mL
   PS : 0 cmH2O
   RR (Set): 24
   RR (Spontaneous): 27
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 12 cmH2O
   Plateau: 17 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: 7.35/35/120/18/-5
   Ve: 15.3 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   occassional, diffuse)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Decreased
   Labs / Radiology
   75 K/uL
   10.6 g/dL
   309 mg/dL
   7.0 mg/dL
   18 mEq/L
   4.8 mEq/L
   69 mg/dL
   113 mEq/L
   145 mEq/L
   30.7 %
   13.0 K/uL
        [image002.jpg]
                            [**2103-10-25**]  04:31 AM
                            [**2103-10-25**]  09:25 AM
                            [**2103-10-25**]  03:02 PM
                            [**2103-10-25**]  03:18 PM
                            [**2103-10-25**]  07:47 PM
                            [**2103-10-25**]  07:49 PM
                            [**2103-10-25**]  10:34 PM
                            [**2103-10-26**]  12:09 AM
                            [**2103-10-26**]  03:30 AM
                            [**2103-10-26**]  03:38 AM
   WBC
   14.8
   13.0
   Hct
   33.8
   30.7
   Plt
   97
   75
   Cr
   6.2
   6.5
   6.9
   6.9
   6.7
   7.0
   TCO2
   18
   17
   20
   20
   Glucose
   257
   262
   298
   390
   364
   309
   Other labs: PT / PTT / INR:13.6/25.8/1.1, CK / CKMB /
   Troponin-T:2527/7/0.03, ALT / AST:61/58, Alk Phos / T Bili:91/0.5,
   Amylase / Lipase:72/68, Differential-Neuts:46.0 %, Band:4.0 %,
   Lymph:26.0 %, Mono:6.0 %, Eos:4.0 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.6 g/dL, LDH:291 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:6.4
   mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
 HYPERGLYCEMIA
 OLIGURIA/ANURIA
 ACIDOSIS, METABOLIC
 .H/O ACIDOSIS, METABOLIC
 .H/O HYPERGLYCEMIA
   48yoM ICU day #4 with HONK with potential underlying infection
   # HONK: Hypernatremia now resolved. AG 14 this am.  He remains on
   insulin gtt this am.  He is fluid overloaded at this point given his
   peripheral edema
   - Continue D5 Water at 100cc/hr for now.
   - recheck urine lytes and monitor UOP closely
   -Will d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 72**] possibility of switching from insulin gtt to sc
   insulin today.
   # Respiratory acidosis/vent dependence: Patient remains intubated.
   Sedation was turned off at approx 10am yesterday  but pt remains
   responsive to some verbal commands and all noxious stimuli. Per
   nursing, has a good gag. On PS 0, PEEP turned down on rounds to 5. Will
   monitor SBT and try for extubation this
   -Try for extubation in pm and chk post extubation ABG
   # ARF:  Patient
s UOP continues at 150- 200cc/hr after 100mg IV Lasix
   x1 yesterday. Renal on board. Holding on HD for now although pt has
   ATN, now making good urine.
   - f/u renal recs
   - monitor lytes and UOP closely.
   -Rechk CK today
   .
   #AMS: Pt remains responsive to some verbal commands and all noxious
   stimuli- this is an improvement over yesterday. He has been off
   sedation for 24 hrs now
   -Will continue to monitor MS closely and consider neuro consult +/- CT
   Head if pt does not continue to improve.
   # Elevated LFTs/pancreatic enzymes: LFT
s leveling out. Likely shock
   liver/pancrease although HONK can elevate pancreatic.  Abd US [**10-24**]-
   Echogenic liver consistent with fatty infiltration but other forms of
   liver disease cannot be ruled out.
    - Trend LFTs/pancreatic enzymes
   - consider sending hep serologies
   # Acid-Base Status: Patient with AG (14) metabolic acidosis.
   - Hold on bicarb for now.  Continue to monitor lytes Q 4hrs
   # Underlying Infection: WBC trending down and pt remains afebrile. A
   line GPC likely contaminant but A line was changed and tip was sent for
   culture.
   -F/u cultures
   - continue levofloxacin for now
   # Family: family is present and being frequently updated on pt
   condition.
   ICU Care
   Nutrition: NPO without TF for now considering possible extubation this
   afternoon. On D5W at 100cc/hr
   Glycemic Control:  Insulin infusion, Comments: at 9 units/hr- will d/w
   [**Last Name (un) 72**] today
   Lines:
   18 Gauge - [**2103-10-23**] 02:20 AM
   20 Gauge - [**2103-10-23**] 02:20 AM
   Multi Lumen - [**2103-10-23**] 06:36 AM
   Arterial Line - [**2103-10-25**] 01:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2103-10-26 09:59:00 Physician Attending Progress Note
Chief Complaint: HONK, hypernatremia, acute respiratory failure, acute
   renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Urine output good through the day yesterday after a single dose of
   lasix. CVP is down today.
   Mental status gradually improving.
   Na 142 this AM.
   Creat down to 6.6 this AM.
   24 Hour Events:
 BLOOD CULTURED - At [**2103-10-25**] 10:59 AM
 ARTERIAL LINE - START [**2103-10-25**] 01:07 PM
   re sited Aline [**1-13**] pos gm cocci in BC from R radial aline
 ARTERIAL LINE - STOP [**2103-10-25**] 01:52 PM
 SPUTUM CULTURE - At [**2103-10-25**] 03:22 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2103-10-25**] 11:00 AM
   Levofloxacin - [**2103-10-25**] 09:29 PM
   Infusions:
   Insulin - Regular - 9 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2103-10-25**] 10:58 AM
   Heparin Sodium (Prophylaxis) - [**2103-10-25**] 11:09 PM
   Famotidine (Pepcid) - [**2103-10-26**] 08:00 AM
   Other medications:
   ASA, chlorhexidine, albuterol, atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-26**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.4
C (99.3
   HR: 96 (93 - 100) bpm
   BP: 167/90(115) {120/74(89) - 169/93(118)} mmHg
   RR: 31 (24 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 358 (8 - 358)mmHg
   Total In:
                                                                  3,585 mL
                                                                  2,179 mL
   PO:
   TF:
   IVF:
                                                                  3,585 mL
                                                                  2,179 mL
   Blood products:
   Total out:
                                                                  3,150 mL
                                                                  1,745 mL
   Urine:
                                                                  3,150 mL
                                                                  1,745 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    435 mL
                                                                    434 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP
   Vt (Spontaneous): 473 (473 - 650) mL
   PS : 0 cmH2O
   RR (Spontaneous): 27
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.37/34/156/19/-4
   Ve: 13.6 L/min
   PaO2 / FiO2: 390
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anteriorally and laterally, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Minimal bowel sounds
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): Not able to assess, Movement:
   Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   75 K/uL
   279 mg/dL
   6.6 mg/dL
   19 mEq/L
   4.6 mEq/L
   69 mg/dL
   111 mEq/L
   142 mEq/L
   30.7 %
   13.0 K/uL
        [image002.jpg]
                            [**2103-10-25**]  03:02 PM
                            [**2103-10-25**]  03:18 PM
                            [**2103-10-25**]  07:47 PM
                            [**2103-10-25**]  07:49 PM
                            [**2103-10-25**]  10:34 PM
                            [**2103-10-26**]  12:09 AM
                            [**2103-10-26**]  03:30 AM
                            [**2103-10-26**]  03:38 AM
                            [**2103-10-26**]  07:51 AM
                            [**2103-10-26**]  08:04 AM
   WBC
   13.0
   Hct
   30.7
   Plt
   75
   Cr
   6.9
   6.9
   6.7
   7.0
   6.6
   TCO2
   18
   17
   20
   20
   20
   Glucose
   298
   390
   364
   309
   279
   Other labs: PT / PTT / INR:13.6/25.8/1.1, CK / CKMB /
   Troponin-T:2527/7/0.03, ALT / AST:61/58, Alk Phos / T Bili:91/0.5,
   Amylase / Lipase:72/68, Differential-Neuts:46.0 %, Band:4.0 %,
   Lymph:26.0 %, Mono:6.0 %, Eos:4.0 %, Lactic Acid:1.4 mmol/L,
   Albumin:2.6 g/dL, LDH:291 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:6.4
   mg/dL
   Imaging: CXR: better lung volumes, improved interstitial markings.
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
 HYPERGLYCEMIA
 OLIGURIA/ANURIA
 ACIDOSIS, METABOLIC
 .H/O ACIDOSIS, METABOLIC
 .H/O HYPERGLYCEMIA
   ACUTE RENAL FAILURE
   ACUTE RESPIRATORY FAILURE
   Patient still has high minute ventilation, but he is tolerating that
   fine with good RSBI. Oxygenation excellent. Good cough and gag when he
   is suctioned. Filling pressure down to 5-6. I would favor extubating
   him today; put him on ZEEP and 0 PSV. If respiratory status unchanged,
   will extubate.
   Hypernatremia resolved. Will now just replete free water losses in
   urine as he continues post ATN diuresis. Recheck urine electrolytes
   today.
   Anion gap still mildly elevated from renal failure.
   Hct stable. No evidence of blleeding. Not at transfusion threshold.
   Use sc insulin.
   Platelets down; check HIT antibody.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2103-10-23**] 02:20 AM
   Multi Lumen - [**2103-10-23**] 06:36 AM
   Arterial Line - [**2103-10-25**] 01:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2103-10-27 06:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2103-10-26**] 10:30 AM
 INVASIVE VENTILATION - START [**2103-10-26**] 12:30 PM
 INVASIVE VENTILATION - START [**2103-10-26**] 12:30 PM
   - Patient extubated but had acute respiratory distress thought to be
   [**1-13**] to laryngeal edema.  Given racemic Epi, decadron, heliox and lasix
   but continued to be tachypnic and with BPs in the 215/120 range.  ->
   Emergently re-intubated.
   - BP came back to the normal range when re-intubated on propafol.
   - Overnight, neuro exam revealed dilated pupils with L pupil fixed vs
   hyporeactive.  -> Stat Head CT done and Neurosurgery called, but CT
   unrevealing for intracranial process. Neurology also aware.
   - Transitioned from insulin gtt to sub-cutaneous insulin with sugars in
   the 300-400 range.
   - Renal indicated he's in the post-ATN diuresis phase and to monitor
   electrolytes closely.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2103-10-25**] 11:00 AM
   Levofloxacin - [**2103-10-25**] 09:29 PM
   Piperacillin/Tazobactam (Zosyn) - [**2103-10-27**] 12:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2103-10-26**] 12:03 PM
   Famotidine (Pepcid) - [**2103-10-26**] 07:40 PM
   Heparin Sodium (Prophylaxis) - [**2103-10-27**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-27**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 73 (73 - 104) bpm
   BP: 113/66(82) {99/58(73) - 190/105(133)} mmHg
   RR: 24 (22 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 6 (-3 - 13)mmHg
   Total In:
                                                                  4,091 mL
                                                                    383 mL
   PO:
   TF:
                                                                     40 mL
                                                                    102 mL
   IVF:
                                                                  4,051 mL
                                                                    281 mL
   Blood products:
   Total out:
                                                                  6,700 mL
                                                                  1,705 mL
   Urine:
                                                                  6,700 mL
                                                                  1,705 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,609 mL
                                                                 -1,322 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 332 (332 - 332) mL
   PS : 10 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   Compliance: 54.5 cmH2O/mL
   SpO2: 94%
   ABG: 7.46/30/86.[**Numeric Identifier 253**]/20/0
   Ve: 13.9 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, Dilated to 7mm
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular:  RRR no M/G/R
   Respiratory / Chest: Equal breath sounds bilat, coars rhonchi
   bilaterally.
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Decreased
   Labs / Radiology
   82 K/uL
   11.3 g/dL
   335 mg/dL
   6.3 mg/dL
   20 mEq/L
   4.9 mEq/L
   77 mg/dL
   107 mEq/L
   141 mEq/L
   31.6 %
   8.4 K/uL
        [image002.jpg]
                            [**2103-10-26**]  03:38 AM
                            [**2103-10-26**]  07:51 AM
                            [**2103-10-26**]  08:04 AM
                            [**2103-10-26**]  11:01 AM
                            [**2103-10-26**]  01:38 PM
                            [**2103-10-26**]  02:43 PM
                            [**2103-10-26**]  04:50 PM
                            [**2103-10-26**]  07:23 PM
                            [**2103-10-27**]  03:22 AM
                            [**2103-10-27**]  03:43 AM
   WBC
   12.7
   8.4
   Hct
   32.5
   31.6
   Plt
   82
   82
   Cr
   6.6
   6.7
   6.7
   6.7
   6.3
   TCO2
   20
   20
   19
   22
   22
   Glucose
   279
   291
   334
   312
   335
   Other labs: PT / PTT / INR:13.6/25.8/1.1, CK / CKMB /
   Troponin-T:1583/7/0.03, ALT / AST:69/57, Alk Phos / T Bili:112/0.5,
   Amylase / Lipase:72/68, Differential-Neuts:46.0 %, Band:4.0 %,
   Lymph:26.0 %, Mono:6.0 %, Eos:4.0 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.6 g/dL, LDH:348 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:6.5
   mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
 HYPERGLYCEMIA
 OLIGURIA/ANURIA
 ACIDOSIS, METABOLIC
 .H/O ACIDOSIS, METABOLIC
 .H/O HYPERGLYCEMIA
   48yoM ICU day #4 with HONK with potential underlying infection
   # HONK: Hypernatremia now resolved. AG 14 this am.  He was transitioned
   to subcutaneous insulin with sugars in the 300s after 2 doses of
   decadron.  He is fluid overloaded at this point given his peripheral
   edema.  Tube feeds were started with free water flushes
   - change free water flushes to 250 cc q 6 hrs
   - monitor UOP closely
   - monitor electrolytes q6hrs
   -f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] recs for Insulin adjustments.
   # Respiratory acidosis/vent dependence: Patient was emergently
   re-intubated. Sedation was turned off at approx 10am yesterday  but pt
   remains responsive to some verbal commands and all noxious stimuli. Per
   nursing, has a good gag.
   - Patient with upper airway distress post-extubation
 monitor until
   more alert
   - Keep on low vent settings today.
   # ARF:  Patient
s UOP continues at ~ 200cc/hr after 100mg IV Lasix x1
   yesterday. Renal on board. Holding on HD for now although pt has ATN,
   now making good urine.
   - f/u renal recs
   - monitor lytes and UOP closely.
   -Rechk CK today
   .
   #AMS: Pt remains responsive to some verbal commands and all noxious
   stimuli- this is an improvement over yesterday. Propofol was turned off
   early this AM and patient doing well.
   -Will continue to monitor MS closely
   - neuro consult last night over ? fixed pupil -> not impressed
   - consider re-consult if MS not improving
   # Elevated LFTs/pancreatic enzymes: LFT
s leveling out. Likely shock
   liver/pancrease although HONK can elevate pancreatic.  Abd US [**10-24**]-
   Echogenic liver consistent with fatty infiltration but other forms of
   liver disease cannot be ruled out.
    - Trend LFTs/pancreatic enzymes
   - consider sending hep serologies
   # Acid-Base Status: Patient with AG (14) metabolic acidosis.
   - Hold on bicarb for now.  Continue to monitor lytes Q 6hr
   # Underlying Infection: WBC trending down and pt remains afebrile.
   A-line GPC likely contaminant but A line was changed and tip was sent
   for culture. Patient also with GNR in sputum cx > 48 hrs after
   intubation.
   - F/u cultures
   - Start Zosyn for VAP coverage
   - continue levofloxacin for now
   # Family: family is present and being frequently updated on pt
   condition.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2103-10-26**] 06:48 PM 20 mL/hour
   Glycemic Control:  Comments: Glargine with Humalog sliding scale
   Lines:
   Multi Lumen - [**2103-10-23**] 06:36 AM
   Arterial Line - [**2103-10-25**] 01:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2103-10-27 10:20:00 Physician Attending Progress Note
Chief Complaint: 48 yr old male, HONK, hypernatremia, acute resp
   failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2103-10-26**] 10:30 AM
 NON-INVASIVE VENTILATION - START [**2103-10-26**] 10:30 AM
 NON-INVASIVE VENTILATION - STOP [**2103-10-26**] 12:15 PM
 INVASIVE VENTILATION - START [**2103-10-26**] 12:30 PM
   ICU Day 5 with HONK.
   Extubated but subsequently had acute distress, stridor. Tx with heliox
   and decadron, lasix but remained hypertensive/tachycardic/in distress
   so was reintubated. Vitals subsequently improved.
   Head CT for dilated pupils, ?fixed left pupil - no acute pathology
   Sedated on propofol.
   Transitioned off insulin drip.
   Sputum culture GNR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2103-10-25**] 11:00 AM
   Levofloxacin - [**2103-10-25**] 09:29 PM
   Piperacillin/Tazobactam (Zosyn) - [**2103-10-27**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2103-10-26**] 12:03 PM
   Famotidine (Pepcid) - [**2103-10-27**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2103-10-27**] 08:00 AM
   Other medications:
   Lantus/ [**Last Name (LF) **], [**First Name3 (LF) 119**], atrovent nebs
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-27**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.8
C (98.3
   HR: 85 (73 - 104) bpm
   BP: 152/74(98) {99/58(73) - 190/105(133)} mmHg
   RR: 31 (22 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 11 (-3 - 13)mmHg
   Total In:
                                                                  4,091 mL
                                                                  1,069 mL
   PO:
   TF:
                                                                     40 mL
                                                                    168 mL
   IVF:
                                                                  4,051 mL
                                                                    392 mL
   Blood products:
   Total out:
                                                                  6,700 mL
                                                                  2,205 mL
   Urine:
                                                                  6,700 mL
                                                                  2,205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,609 mL
                                                                 -1,135 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 460 (332 - 698) mL
   PS : 8 cmH2O
   RR (Set): 24
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 11 cmH2O
   Plateau: 16 cmH2O
   Compliance: 54.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.44/32/117/21/0 on PS 5/5
   Ve: 15.5 L/min
   PaO2 / FiO2: 293
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese
   Eyes / Conjunctiva: PERRL, dilated but reactive pupils
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.3 g/dL
   82 K/uL
   349 mg/dL
   6.3 mg/dL
   21 mEq/L
   4.1 mEq/L
   77 mg/dL
   106 mEq/L
   140 mEq/L
   31.6 %
   8.4 K/uL
        [image002.jpg]
                            [**2103-10-26**]  08:04 AM
                            [**2103-10-26**]  11:01 AM
                            [**2103-10-26**]  01:38 PM
                            [**2103-10-26**]  02:43 PM
                            [**2103-10-26**]  04:50 PM
                            [**2103-10-26**]  07:23 PM
                            [**2103-10-27**]  03:22 AM
                            [**2103-10-27**]  03:43 AM
                            [**2103-10-27**]  07:38 AM
                            [**2103-10-27**]  08:33 AM
   WBC
   12.7
   8.4
   Hct
   32.5
   31.6
   Plt
   82
   82
   Cr
   6.7
   6.7
   6.7
   6.3
   TCO2
   20
   19
   22
   22
   22
   Glucose
   291
   334
   312
   335
   349
   Other labs: PT / PTT / INR:13.6/25.8/1.1, CK / CKMB /
   Troponin-T:1583/7/0.03, ALT / AST:69/57, Alk Phos / T Bili:112/0.5,
   Amylase / Lipase:72/68, Differential-Neuts:46.0 %, Band:4.0 %,
   Lymph:26.0 %, Mono:6.0 %, Eos:4.0 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.6 g/dL, LDH:348 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:6.5
   mg/dL
   Imaging: CXR reviewed personally - ETT in good position, no interval
   change
   Assessment and Plan
 HYPERGLYCEMIA
 OLIGURIA/ANURIA
 ACIDOSIS, METABOLIC
 .H/O HYPERGLYCEMIA
   History as above. I agree with Dr.[**Location (un) 2669**] plan as outlined in his
   note but would add the following. Acute respiratory failure with
   stridor, felt due to laryngeal edema post extubation. He currently has
   good air leak with ETT cuff deflated, doing well on PS wean. Would hold
   off on extubation at least another 24 hours. Will likely extubate in AM
   if deemed ready.
   Hypernatremia resolved. Getting FW boluses.
   Leukocytosis improved. Suspect wbc will increase due to steroids.
   Renal failure with post-ATN diuresis
   Thrombocytopenia stable.
   Mental status still not at pre-admit baseline. Likely from meds in
   context of ESKD.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2103-10-26**] 06:48 PM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2103-10-23**] 06:36 AM
   Arterial Line - [**2103-10-25**] 01:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill

2103-10-29 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2103-10-28**] 09:54 AM
   - [**First Name8 (NamePattern2) 77**] [**Last Name (un) **], incr'd HISS and glargine- to 80 Q day from 60 Q day
   -Per renal, gave 300cc free water by NGT Q 2hrs during day. Then, after
   midnight, shut off TF and restarted D5 at 150cc/hr
   -Started Hydral for BP control and up titrated to 20 Q6
   -Started miconazole for groin rash
   -10pm ABG 7.45/ 36/ 107/ 26 on PS 10, PEEP 5, MV 18-20
   - started Ativan .5-2mg Q4 PRN in addition to propofol sedation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2103-10-27**] 09:03 PM
   Piperacillin/Tazobactam (Zosyn) - [**2103-10-29**] 05:23 AM
   Infusions:
   Propofol - 45 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-10-28**] 08:19 AM
   Heparin Sodium (Prophylaxis) - [**2103-10-28**] 04:23 PM
   Hydralazine - [**2103-10-28**] 04:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-29**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 70 (67 - 90) bpm
   BP: 130/66(85) {89/48(60) - 167/123(132)} mmHg
   RR: 28 (0 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 7 (6 - 22)mmHg
   Total In:
                                                                  4,745 mL
                                                                  1,774 mL
   PO:
   TF:
                                                                    997 mL
   IVF:
                                                                  2,669 mL
                                                                  1,714 mL
   Blood products:
   Total out:
                                                                  4,535 mL
                                                                  1,290 mL
   Urine:
                                                                  4,535 mL
                                                                  1,290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    210 mL
                                                                    484 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 549 (377 - 644) mL
   PS : 10 cmH2O
   RR (Set): 24
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 92
   PIP: 16 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.47/36/104/24/2
   Ve: 12.6 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Gen: NAD, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   HEENT: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular:  RRR no M/G/R
   Respiratory / Chest: Equal breath sounds bilat, coars rhonchi
   bilaterally.
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Decreased
   Labs / Radiology
   188 K/uL
   10.6 g/dL
   154 mg/dL
   3.5 mg/dL
   24 mEq/L
   3.7 mEq/L
   68 mg/dL
   114 mEq/L
   148 mEq/L
   29.9 %
   10.0 K/uL
        [image002.jpg]
                            [**2103-10-28**]  06:44 AM
                            [**2103-10-28**]  11:40 AM
                            [**2103-10-28**]  11:52 AM
                            [**2103-10-28**]  12:51 PM
                            [**2103-10-28**]  04:07 PM
                            [**2103-10-28**]  06:20 PM
                            [**2103-10-28**]  10:30 PM
                            [**2103-10-28**]  10:35 PM
                            [**2103-10-29**]  04:23 AM
                            [**2103-10-29**]  04:39 AM
   WBC
   10.0
   Hct
   29.8
   29.9
   Plt
   188
   Cr
   4.8
   4.2
   3.9
   3.5
   TropT
   <0.01
   TCO2
   24
   24
   24
   25
   26
   27
   Glucose
   [**Telephone/Fax (3) 2690**]54
   Other labs: PT / PTT / INR:13.0/23.5/1.1, CK / CKMB /
   Troponin-T:2860/2/<0.01, ALT / AST:67/62, Alk Phos / T Bili:81/0.3,
   Amylase / Lipase:105/68, Differential-Neuts:61.0 %, Band:4.0 %,
   Lymph:28.9 %, Mono:8.9 %, Eos:0.9 %, Lactic Acid:1.7 mmol/L,
   Albumin:2.8 g/dL, LDH:300 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
 HYPERGLYCEMIA
 OLIGURIA/ANURIA
 ACIDOSIS, METABOLIC
 .H/O ACIDOSIS, METABOLIC
 .H/O HYPERGLYCEMIA
   48yoM ICU day #7 with HONK with potential underlying infection
   # HONK: Hypernatremia up 148 this am.   Tube feeds were at goal of
   40cc/hr with 300cc free water flushes q2hr, but patient NPO for ?
   extubation in AM.
   - Continue D5W at 200
   - monitor UOP closely
   - monitor electrolytes q8hrs
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 72**] recs
   # Hypertension: Patient hypertensive requiring hydralizine for
   control.  Unclear etiology, but may be essential hypertension
   previously undiagnosed.
   - Continue Hydral IV 20mg q6hr
   - TTE today
    # Respiratory acidosis/vent dependence: Patient was emergently
   re-intubated [**10-26**]. Pt now on propofol for sedation. Doing okay on PS,
   but unable to wean much further than [**9-16**].
   -Plan on extubation tomorrow.
    # ARF:  Patient
s UOP continues at ~ 125cc/hr without diuresis in
   several days, but was even yesterday. Renal on board. Pt now with post
   ATN diuresis and Cr falling.  CK up to 2860 today from nadir of ~1100
   - diurese 1-1.5 L today
   - f/u renal recs
   - monitor lytes and UOP closely.
   .
   #AMS: Pt  responsive to verbal commands today. Propofol  being
   continued at this time at low rate. CT head unremarkable and neuro
   consult [**10-26**] not suspicious for intracranial pathology.
   - Will continue to monitor MS closely
   - consult Neuro today for AMS/lethargy despite weaning of sedation.
   # Elevated LFTs/pancreatic enzymes: LFT
s stable. Likely shock
   liver/pancrease although HONK can elevate pancreatic enzymes.  Abd US
   [**10-24**]- Echogenic liver consistent with fatty infiltration but other
   forms of liver disease cannot be ruled out.
   - Trend LFTs
   # Acid-Base Status: Patient with AG 10 today
   - Continue to monitor lytes Q 8hr
   # Underlying Infection: WBC trending down and pt remains afebrile.
   A-line Coag neg staph likely contaminant but A line was changed and tip
   was sent for culture [**10-25**]. Patient also with GNR in sputum cx > 48 hrs
   after intubation.
   - F/u cultures
   - Patient has had 7 day course of levofloxacin
 d/c today
   -Cont Zosyn since [**10-26**] for VAP coverage
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  Sub Q insulin
   Lines:
   Multi Lumen - [**2103-10-23**] 06:36 AM
   Arterial Line - [**2103-10-25**] 01:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2103-10-29 11:28:00 Physician Attending Progress Note
Chief Complaint: Acute Respiratory failure, hyperosmolar state,
   hypernatremia, acute renal failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Renal function slowly improving. Has been maintained on the ventilator
   over the weekend.
   Received additional free water in past 24 hours for mild increase in
   Na.
   Mental status has improved.
   RSBI 92 this AM.
   24 Hour Events:
 URINE CULTURE - At [**2103-10-28**] 09:54 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2103-10-27**] 09:03 PM
   Piperacillin/Tazobactam (Zosyn) - [**2103-10-29**] 05:23 AM
   Infusions:
   Propofol - 45 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-10-28**] 04:23 PM
   Hydralazine - [**2103-10-28**] 04:40 PM
   Pantoprazole (Protonix) - [**2103-10-29**] 08:10 AM
   Other medications:
   Insulin, atrovent, ASA, chlorhexidine, hydralazine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-29**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 80 (67 - 90) bpm
   BP: 140/71(93) {89/48(60) - 167/123(132)} mmHg
   RR: 34 (0 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 13 (6 - 22)mmHg
   Total In:
                                                                  4,745 mL
                                                                  2,627 mL
   PO:
   TF:
                                                                    997 mL
   IVF:
                                                                  2,669 mL
                                                                  2,567 mL
   Blood products:
   Total out:
                                                                  4,535 mL
                                                                  2,590 mL
   Urine:
                                                                  4,535 mL
                                                                  2,590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    210 mL
                                                                     37 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 390 (377 - 644) mL
   PS : 8 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 92
   PIP: 15 cmH2O
   SpO2: 99%
   ABG: 7.47/36/104/22/2
   Ve: 11.9 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, Anxious, No(t) Diaphoretic, Responds to simple
   quetions, denies pain and dyspnea but not able to modify his
   respiratory rate
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic), Heart sounds largely obscured by breath sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   Coarse crackles throughout, No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Bowel sounds diminished
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Not able to assess; intubated, Movement:
   Purposeful, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   188 K/uL
   265 mg/dL
   3.2 mg/dL
   22 mEq/L
   3.7 mEq/L
   61 mg/dL
   110 mEq/L
   143 mEq/L
   29.9 %
   10.0 K/uL
        [image002.jpg]
                            [**2103-10-28**]  11:40 AM
                            [**2103-10-28**]  11:52 AM
                            [**2103-10-28**]  12:51 PM
                            [**2103-10-28**]  04:07 PM
                            [**2103-10-28**]  06:20 PM
                            [**2103-10-28**]  10:30 PM
                            [**2103-10-28**]  10:35 PM
                            [**2103-10-29**]  04:23 AM
                            [**2103-10-29**]  04:39 AM
                            [**2103-10-29**]  09:05 AM
   WBC
   10.0
   Hct
   29.8
   29.9
   Plt
   188
   Cr
   4.8
   4.2
   3.9
   3.5
   3.2
   TropT
   <0.01
   TCO2
   24
   24
   25
   26
   27
   Glucose
   [**Telephone/Fax (3) 2690**]54
   265
   Other labs: PT / PTT / INR:13.0/23.5/1.1, CK / CKMB /
   Troponin-T:2860/2/<0.01, ALT / AST:67/62, Alk Phos / T Bili:81/0.3,
   Amylase / Lipase:105/68, Differential-Neuts:61.0 %, Band:4.0 %,
   Lymph:28.9 %, Mono:8.9 %, Eos:0.9 %, Lactic Acid:1.7 mmol/L,
   Albumin:2.8 g/dL, LDH:300 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.3
   mg/dL
   Imaging: CXR: normal size heart. No infiltrates or effusions.
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
 HYPERGLYCEMIA
 OLIGURIA/ANURIA
 ACIDOSIS, METABOLIC
 .H/O ACIDOSIS, METABOLIC
 .H/O HYPERGLYCEMIA
   ACUTE RENAL FAILURE
   HYPERNATREMIA
   BRONCHITIS
   Patient remains tachypneic. CVP is up. Will diurese today. Would obtain
   echocardiogram; concern about possible diastolic dysfunction; may need
   aggressive BP control at time of extubation to avert flash pulmonary
   edema if evidence of LVH. Patient to have dexamethasone restared for
   possible laryngeal edema that was noted on last extubation.
   With diuresis will need to replace free water more aggressive; every
   liter of urine post lasix has about 0.5 liters of free water.
   Renal function gradually improving. Only borderline anion gap.
   Mental status mildly improved. Is still on propofol now.
   Completing course of antibiotics.
   ICU Care
   Nutrition: Tube feedings
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2103-10-23**] 06:36 AM
   Arterial Line - [**2103-10-25**] 01:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2103-10-30 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Occasionally dropped his pressures, but mostly when over-sedated with
   propofol.
   - A-line [**Last Name (LF) 2715**], [**First Name3 (LF) **] need replaced.
   - 6mg decadron TID for laryngeal edema in anticipation of extubation.
   - Diuresed very well with 1x lasix of 100 mg.
   - Renal recommended D5 1/2 NS for any maintainance fluid and to slow
   down on
   lasix diuresis.
   - Insulin titrated [**First Name8 (NamePattern2) 77**] [**Last Name (un) 72**] recs.
   - Neurology consulted with no recs.
   - Echo with limited exam but EF of 55-60%.  no other abnormalities.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2103-10-29**] 05:23 AM
   Levofloxacin - [**2103-10-29**] 10:06 PM
   Piperacillin - [**2103-10-30**] 04:31 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2103-10-29**] 08:10 AM
   Furosemide (Lasix) - [**2103-10-29**] 11:50 AM
   Heparin Sodium (Prophylaxis) - [**2103-10-30**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-30**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.3
   HR: 89 (70 - 101) bpm
   BP: 109/61(76) {85/49(60) - 154/100(116)} mmHg
   RR: 17 (17 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.2 kg (admission): 87 kg
   Height: 70 Inch
    CVP: 17 (9 - 17)mmHg
   Total In:
                                                                  5,350 mL
                                                                    663 mL
   PO:
   TF:
                                                                    235 mL
                                                                    190 mL
   IVF:
                                                                  4,145 mL
                                                                    273 mL
   Blood products:
   Total out:
                                                                  7,980 mL
                                                                    545 mL
   Urine:
                                                                  7,980 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,630 mL
                                                                    118 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 596 (258 - 598) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 15 cmH2O
   Plateau: 0 cmH2O
   SpO2: 97%
   ABG: 7.44/36/153/25/1
   Ve: 13.1 L/min
   PaO2 / FiO2: 383
   Physical Examination
   Gen: NAD, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   HEENT: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular:  RRR no M/G/R
   Respiratory / Chest: Equal breath sounds bilat, coars rhonchi
   bilaterally.
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Decreased
   Labs / Radiology
   256 K/uL
   10.5 g/dL
   161 mg/dL
   2.7 mg/dL
   25 mEq/L
   4.0 mEq/L
   53 mg/dL
   107 mEq/L
   143 mEq/L
   30.1 %
   14.3 K/uL
        [image002.jpg]
                            [**2103-10-28**]  06:20 PM
                            [**2103-10-28**]  10:30 PM
                            [**2103-10-28**]  10:35 PM
                            [**2103-10-29**]  04:23 AM
                            [**2103-10-29**]  04:39 AM
                            [**2103-10-29**]  09:05 AM
                            [**2103-10-29**]  12:15 PM
                            [**2103-10-29**]  05:04 PM
                            [**2103-10-30**]  01:05 AM
                            [**2103-10-30**]  05:25 AM
   WBC
   10.0
   14.3
   Hct
   29.8
   29.9
   30.1
   Plt
   188
   256
   Cr
   4.2
   3.9
   3.5
   3.2
   3.0
   2.9
   2.7
   TCO2
   26
   27
   25
   Glucose
   [**Telephone/Fax (3) 2714**]65
   195
   254
   161
   Other labs: PT / PTT / INR:13.0/23.5/1.1, CK / CKMB /
   Troponin-T:2860/2/<0.01, ALT / AST:67/62, Alk Phos / T Bili:81/0.3,
   Amylase / Lipase:105/154, Differential-Neuts:61.0 %, Band:4.0 %,
   Lymph:28.9 %, Mono:8.9 %, Eos:0.9 %, Lactic Acid:1.7 mmol/L,
   Albumin:2.8 g/dL, LDH:300 IU/L, Ca++:7.5 mg/dL, Mg++:3.2 mg/dL, PO4:4.4
   mg/dL
   Assessment and Plan
   48yoM ICU day #7 with HONK with potential underlying infection
   # HONK: Hypernatremia up 148 this am.   Tube feeds were at goal of
   40cc/hr with 300cc free water flushes q2hr, but patient NPO for ?
   extubation in AM.
   - Continue D5W at 200
   - monitor UOP closely
   - monitor electrolytes q8hrs
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 72**] recs
   # Hypertension: Patient hypertensive requiring hydralizine for
   control.  Unclear etiology, but may be essential hypertension
   previously undiagnosed.
   - Continue Hydral IV 20mg q6hr
   - TTE today
    # Respiratory acidosis/vent dependence: Patient was emergently
   re-intubated [**10-26**]. Pt now on propofol for sedation. Doing okay on PS,
   but unable to wean much further than [**9-16**].
   -Plan on extubation tomorrow.
    # ARF:  Patient
s UOP continues at ~ 125cc/hr without diuresis in
   several days, but was even yesterday. Renal on board. Pt now with post
   ATN diuresis and Cr falling.  CK up to 2860 today from nadir of ~1100
   - diurese 1-1.5 L today
   - f/u renal recs
   - monitor lytes and UOP closely.
   .
   #AMS: Pt  responsive to verbal commands today. Propofol  being
   continued at this time at low rate. CT head unremarkable and neuro
   consult [**10-26**] not suspicious for intracranial pathology.
   - Will continue to monitor MS closely
   - consult Neuro today for AMS/lethargy despite weaning of sedation.
   # Elevated LFTs/pancreatic enzymes: LFT
s stable. Likely shock
   liver/pancrease although HONK can elevate pancreatic enzymes.  Abd US
   [**10-24**]- Echogenic liver consistent with fatty infiltration but other
   forms of liver disease cannot be ruled out.
   - Trend LFTs
   # Acid-Base Status: Patient with AG 10 today
   - Continue to monitor lytes Q 8hr
   # Underlying Infection: WBC trending down and pt remains afebrile.
   A-line Coag neg staph likely contaminant but A line was changed and tip
   was sent for culture [**10-25**]. Patient also with GNR in sputum cx > 48 hrs
   after intubation.
   - F/u cultures
   - Patient has had 7 day course of levofloxacin
 d/c today
   -Cont Zosyn since [**10-26**] for VAP coverage
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2103-10-29**] 12:55 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2103-10-23**] 06:36 AM
   Arterial Line - [**2103-10-25**] 01:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2103-10-30 12:35:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, hyperglycemia, hypernatremia,
   acute renal failure, bronchitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient extubated on rounds this AM. Vital signs stable. O2 sats
   acceptable on supplemental oxygen by mask.
   Serum Na in good range.  Off insulin infusion.
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2103-10-29**] 12:00 PM
 INVASIVE VENTILATION - STOP [**2103-10-29**] 12:30 PM
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2103-10-29**] 05:23 AM
   Levofloxacin - [**2103-10-29**] 10:06 PM
   Piperacillin - [**2103-10-30**] 04:31 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-10-30**] 04:00 AM
   Other medications:
   protonix, atrovent, ASA, hydralazine, dexamethasone, insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-30**] 12:33 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 106 (76 - 106) bpm
   BP: 155/83(108) {85/49(60) - 155/100(116)} mmHg
   RR: 20 (12 - 32) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 99.2 kg (admission): 87 kg
   Height: 70 Inch
   CVP: 14 (9 - 17)mmHg
   Total In:
                                                                  5,350 mL
                                                                    737 mL
   PO:
   TF:
                                                                    235 mL
                                                                    210 mL
   IVF:
                                                                  4,145 mL
                                                                    327 mL
   Blood products:
   Total out:
                                                                  7,980 mL
                                                                  1,350 mL
   Urine:
                                                                  7,980 mL
                                                                  1,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,630 mL
                                                                   -613 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 467 (325 - 618) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 0 cmH2O
   FiO2: 70%
   RSBI: 63
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: 7.48/34/125/25/3
   Ve: 13.6 L/min
   PaO2 / FiO2: 313
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   256 K/uL
   161 mg/dL
   2.7 mg/dL
   25 mEq/L
   4.0 mEq/L
   53 mg/dL
   107 mEq/L
   143 mEq/L
   30.1 %
   14.3 K/uL
        [image002.jpg]
                            [**2103-10-28**]  10:30 PM
                            [**2103-10-28**]  10:35 PM
                            [**2103-10-29**]  04:23 AM
                            [**2103-10-29**]  04:39 AM
                            [**2103-10-29**]  09:05 AM
                            [**2103-10-29**]  12:15 PM
                            [**2103-10-29**]  05:04 PM
                            [**2103-10-30**]  01:05 AM
                            [**2103-10-30**]  05:25 AM
                            [**2103-10-30**]  09:47 AM
   WBC
   10.0
   14.3
   Hct
   29.9
   30.1
   Plt
   188
   256
   Cr
   3.9
   3.5
   3.2
   3.0
   2.9
   2.7
   TCO2
   26
   27
   25
   26
   Glucose
   171
   154
   265
   195
   254
   161
   Other labs: PT / PTT / INR:13.0/23.5/1.1, CK / CKMB /
   Troponin-T:2860/2/<0.01, ALT / AST:67/62, Alk Phos / T Bili:81/0.3,
   Amylase / Lipase:105/154, Differential-Neuts:61.0 %, Band:4.0 %,
   Lymph:28.9 %, Mono:8.9 %, Eos:0.9 %, Lactic Acid:1.7 mmol/L,
   Albumin:2.8 g/dL, LDH:300 IU/L, Ca++:7.5 mg/dL, Mg++:3.2 mg/dL, PO4:4.4
   mg/dL
   Imaging: CXR: no infiltrates or effusions.
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
 HYPERGLYCEMIA
 OLIGURIA/ANURIA
 ACIDOSIS, METABOLIC
 .H/O ACIDOSIS, METABOLIC
 .H/O HYPERGLYCEMIA
   RESPIRATORY FAIULRE - ACUTE
   HYPERNATREMIA
   RENAL FAILURE
   Patient awake, alert, sitting in a chair now. O2 sats are excellent
   utilizing O2 via nasal cannula; would try off of supplemental O2.
   Continue to monitor blood sugars. Serum Na normal. Allow patient to
   begin clear liquids.
   Complete 7 day course of zosyn.
   Quickly taper steroids.
   Creatinine continues to fall. Urine output good.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2103-10-23**] 06:36 AM
   Arterial Line - [**2103-10-25**] 01:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2103-10-31 07:28:00 Physician Resident Progress Note
Chief Complaint: HONK
   24 Hour Events:
 ARTERIAL LINE - STOP [**2103-10-30**] 03:30 PM
   - Extubated without complication
   - Adjusted Insulin [**First Name8 (NamePattern2) **] [**Last Name (un) 72**]
   - d/c'd Levofloxacin
   - d/c'd A-Line
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2103-10-29**] 05:23 AM
   Levofloxacin - [**2103-10-29**] 10:06 PM
   Piperacillin - [**2103-10-31**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-10-30**] 08:39 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): No(t) Rash
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Flowsheet Data as of  [**2103-10-31**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 73 (73 - 106) bpm
   BP: 109/52(67) {107/52(67) - 124/79(87)} mmHg
   RR: 17 (14 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.2 kg (admission): 87 kg
   Height: 70 Inch
    CVP: 14 (10 - 14)mmHg
   Total In:
                                                                  2,825 mL
                                                                    161 mL
   PO:
   TF:
                                                                    210 mL
   IVF:
                                                                  2,415 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                  3,225 mL
                                                                  1,280 mL
   Urine:
                                                                  3,225 mL
                                                                    830 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                   -400 mL
                                                                 -1,119 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 467 (467 - 618) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 0 cmH2O
   FiO2: 70%
   RSBI: 63
   SpO2: 95%
   ABG: 7.48/34/125/27/3
   Ve: 13.6 L/min
   PaO2 / FiO2: 313
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : at bases bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   434 K/uL
   11.2 g/dL
   70 mg/dL
   2.2 mg/dL
   27 mEq/L
   4.3 mEq/L
   41 mg/dL
   113 mEq/L
   149 mEq/L
   32.5 %
   23.6 K/uL
        [image002.jpg]
                            [**2103-10-29**]  04:23 AM
                            [**2103-10-29**]  04:39 AM
                            [**2103-10-29**]  09:05 AM
                            [**2103-10-29**]  12:15 PM
                            [**2103-10-29**]  05:04 PM
                            [**2103-10-30**]  01:05 AM
                            [**2103-10-30**]  05:25 AM
                            [**2103-10-30**]  09:47 AM
                            [**2103-10-30**]  08:02 PM
                            [**2103-10-31**]  05:18 AM
   WBC
   10.0
   14.3
   23.6
   Hct
   29.9
   30.1
   32.5
   Plt
   188
   256
   434
   Cr
   3.5
   3.2
   3.0
   2.9
   2.7
   2.3
   2.2
   TCO2
   27
   25
   26
   Glucose
   154
   265
   195
   254
   161
   65
   70
   Other labs: PT / PTT / INR:13.0/23.5/1.1, CK / CKMB /
   Troponin-T:2860/2/<0.01, ALT / AST:67/62, Alk Phos / T Bili:81/0.3,
   Amylase / Lipase:105/154, Differential-Neuts:61.0 %, Band:4.0 %,
   Lymph:28.9 %, Mono:8.9 %, Eos:0.9 %, Lactic Acid:1.7 mmol/L,
   Albumin:2.8 g/dL, LDH:300 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
 HYPERGLYCEMIA
 OLIGURIA/ANURIA
 ACIDOSIS, METABOLIC
 .H/O ACIDOSIS, METABOLIC
 .H/O HYPERGLYCEMIA
   48yoM ICU day #9 with HONK with potential underlying infection
   # HONK: Hypernatremia increased today to 149 in the am. Back to 141 in
   the afternoon s/p 2L
 NS at 200cc/hr.
   - f/u renal recs
   - monitor UOP closely
 pt having at least 200cc urine per hr likely
   [**1-13**] post ATN diuresis.
   - monitor electrolytes q6hrs- pt loosing K, Mag and Phos with diuresis
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 72**] recs- currently on Insulin SS which may need to be
   increased PRN
   # Hypertension: Patient  periodically hypertensive. Written for
   hydralizine although not receiving. No LVH on TTE.
   - Cont  Hydral PO 25 mg Q 6 hrs. Once renal fxn returns to normal, will
   consider adding an ACEI.
    # Respiratory Failure: Pt now extubated and appears comfortable.
   - Continue to wean 02 requirement
    # ARF:  Cont to improve Cr. UOP still excellent with foley in place.
   - Pt diuresing on own.
   - f/u renal recs
   - monitor lytes and UOP closely.
   - Plan to d/c foley once pt more mobile or UOP decreased.
   .
   # Elevated LFTs/pancreatic enzymes: LFT
s stable. Likely shock
   liver/pancrease although HONK can elevate pancreatic enzymes.  Abd US
   [**10-24**]- Echogenic liver consistent with fatty infiltration but other
   forms of liver disease cannot be ruled out.
   - Trend LFTs
   .
   # Question underlying PNA: Sputum cultures have now grown out
   pan-sensitive klebsiella and 2 types of stenotrophomonas.
   - started bactrim today
   ICU Care
   Nutrition: Diabetic diet
   Glycemic Control:  Regular insulin sliding scale- [**First Name8 (NamePattern2) 77**] [**Last Name (un) **], could
   increase prn by 5 units per 50 at mealtime doses
   Lines:
   Multi Lumen - [**2103-10-23**] 06:36 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2103-10-31 11:51:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, acute renal failure, DM,
   hypernatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient did well through the night off the ventilator. Not requiring
   supplemental oxygen.
   WBC up this AM. Hct stable.
   Creat coming down. Patient is auto-diuresing.
   Serum Na up again this morning.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2103-10-30**] 03:30 PM
   re sited Aline [**1-13**] pos gm cocci in BC from R radial aline
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2103-10-29**] 05:23 AM
   Levofloxacin - [**2103-10-29**] 10:06 PM
   Piperacillin - [**2103-10-31**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-10-30**] 08:39 PM
   Other medications:
   ASA, protonix, dexamethasone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-10-31**] 11:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 88 (73 - 102) bpm
   BP: 119/60(74) {107/52(67) - 124/79(87)} mmHg
   RR: 16 (12 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.2 kg (admission): 87 kg
   Height: 70 Inch
             Total In:
                                                                  2,825 mL
                                                                    161 mL
   PO:
             TF:
                                                                    210 mL
   IVF:
                                                                  2,415 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                  3,225 mL
                                                                  2,280 mL
   Urine:
                                                                  3,225 mL
                                                                  1,830 mL
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                   -400 mL
                                                                 -2,119 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent edema, Left: Absent edema, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand, unsteady
   gait due to weakness
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.2 g/dL
   434 K/uL
   70 mg/dL
   2.2 mg/dL
   27 mEq/L
   4.3 mEq/L
   41 mg/dL
   113 mEq/L
   149 mEq/L
   32.5 %
   23.6 K/uL
        [image002.jpg]
                            [**2103-10-29**]  04:23 AM
                            [**2103-10-29**]  04:39 AM
                            [**2103-10-29**]  09:05 AM
                            [**2103-10-29**]  12:15 PM
                            [**2103-10-29**]  05:04 PM
                            [**2103-10-30**]  01:05 AM
                            [**2103-10-30**]  05:25 AM
                            [**2103-10-30**]  09:47 AM
                            [**2103-10-30**]  08:02 PM
                            [**2103-10-31**]  05:18 AM
   WBC
   10.0
   14.3
   23.6
   Hct
   29.9
   30.1
   32.5
   Plt
   188
   256
   434
   Cr
   3.5
   3.2
   3.0
   2.9
   2.7
   2.3
   2.2
   TCO2
   27
   25
   26
   Glucose
   154
   265
   195
   254
   161
   65
   70
   Other labs: PT / PTT / INR:13.0/23.5/1.1, CK / CKMB /
   Troponin-T:2860/2/<0.01, ALT / AST:67/62, Alk Phos / T Bili:81/0.3,
   Amylase / Lipase:105/154, Differential-Neuts:61.0 %, Band:4.0 %,
   Lymph:28.9 %, Mono:8.9 %, Eos:0.9 %, Lactic Acid:1.7 mmol/L,
   Albumin:2.8 g/dL, LDH:300 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 IMPAIRED SKIN INTEGRITY
 HYPERGLYCEMIA
 OLIGURIA/ANURIA
 ACIDOSIS, METABOLIC
 .H/O ACIDOSIS, METABOLIC
 .H/O HYPERGLYCEMIA
   ACUTE RESPIRATORY FAIULRE
   ACUTE RENAL FAILURE
   HYPERNATREMIA
   Respiratory status doing well off the vent. No O2 requirement.
   Renal function still improving. Post ATN diuresis continues, which has
   led to increased free water losses and elevated Na. Patient getting
   more free water. His thirst mechanisn may be off a bit since he has not
   tried to keep up with fluids orally.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2103-10-23**] 06:36 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes